US07947851B2
Step b) Formation of: 5-{{4-[(4-butylphenyl)ethynyl]benzyl}[(2-carboxycyclopropyl) methyl]amino}-2-fluorobenzoic acid
To a solution of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}{[2-(ethoxycarbonyl)cyclopropyl]methyl}amino)-2-fluorobenzoate (340 mg; 0.63 mmol) in anhydrous THF (5 mL) were added lithium hydroxide monohydrate (64 mg; 1.54 mmol) and water (7 mL). The reaction mixture was stirred under MW at 100° C. for 2500 s. Then an aqueous solution of HCl (1N) was added, the residue was extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine (60 mL), dried over magnesium sulfate and the solvent was removed under reduced pressure to give 230 mg (73%) of the title compound as a white solid. HPLC, Rt: 4.99 min (purity 99.5%). LC/MS: M−(ESI): 498.2, 1H NMR (MeOD) δ: 7.46 (d, J=8.3 Hz, 2H), 7.41 (d, J=8.3 Hz, 2H), 7.29 (m, 3H), 7.21 (d, J=7.9 Hz, 2H), 4.66 (s, 2H), 3.44 (m, 1H), 2.65 (t, J=7.5 Hz, 2H), 1.65 (m, 3H), 1.35 (m, 3H), 1.15 (m, 1H), 0.95 (m, 4H), 3.59 (m, 1H), 7.05 (m, 2H).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}{[2-(ethoxycarbonyl)cyclopropyl]methyl}amino)-2-fluorobenzoate | 0.63 mmol, 340 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CC2C(C2)C(=O)OCC)C=C1 | C34H36FNO4
reactant | lithium hydroxide monohydrate | 1.54 mmol, 64 mg | O.[OH-].[Li+]
reactant | water | 7 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-{{4-[(4-butylphenyl)ethynyl]benzyl}[(2-carboxycyclopropyl) methyl]amino}-2-fluorobenzoic acid | 230 mg, 73% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)CC2C(C2)C(=O)O)C=C1 | C31H30FNO4
